US07411087B2
Preparation of Pamidronic Acid
A suspension of 3-aminopropionic acid (25 g, 0.280 mol) and phosphorous acid (34.5 g, 0.421 mol) in sulfolane (90 ml) is heated to 75° C. for 30 min. The mixture is cooled to 35-40° C. and then gradually introduced phosphorous trichloride (83 ml, 0.954 mol) while maintaining the temperature at 35-45° C. The mixture is heated to 63-67° C. for 3 hrs, whereby white solid results. It is then cooled to 0-5° C. and quenched by slow addition of water (250 ml) at 0-5° C. over a period of 1 hr. The resulting clear solution is charcoalized and is heated at 100° C. for 3 hrs, cooled to ambient temperature. Cooled the charcoalized solution and stirred for 4 hrs at 0-5° C. The crystallized product is filtered, washed sequentially with chilled water (100 ml), rectified spirit (75 ml) and dried in air oven at 55-60° C. until water content is less than 0.5% w/w. Yield 41.4 g, (62.7%), appearance: white crystalline solid, purity >99.0%.

reactant | 3-aminopropionic acid | 0.280 mol, 25 g | NCCC(=O)O | C3H7NO2
reactant | phosphorous acid | 0.421 mol, 34.5 g | P(O)(O)O | H3O3P
reactant | phosphorous trichloride | 0.954 mol, 83 ml | P(Cl)(Cl)Cl | Cl3P
solvent | sulfolane | 90 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | Pamidronic Acid | C(CN)C(O)(P(=O)(O)O)P(=O)(O)O | C3H11NO7P2
